US06156700
Preparation of 6-Chloro-3-methyl-5-nitro-1,2-benzisothiazole
A mixture of tert-butyl nitrite (3.30 mL, 0.0278 mol) and copper(II) chloride (2.98 g, 0.0222 mol) in acetonitrile is heated to 65° C., treated portionwise with 6-amino-3-methyl-5-nitro-1,2-benzisothiazole (3.88 g, 0.0185 mol), stirred at 65° C., cooled to room temperature, and poured into 20% hydrochloric acid. The resultant aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed with 20% hydrochloric acid, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a solid. Flash column chromatography of the solid using silica gel and methylene chloride/hexanes solutions (1:1 and 3:1) gives the title product as a pale, yellow solid (2.54 g, mp 156-158° C.) which is identified by NMR spectral analyses.

reactant | tert-butyl nitrite | 0.0278 mol, 3.30 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 6-amino-3-methyl-5-nitro-1,2-benzisothiazole | 0.0185 mol, 3.88 g | NC1=CC2=C(C(=NS2)C)C=C1[N+](=O)[O-] | C8H7N3O2S
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | copper(II) chloride | 0.0222 mol, 2.98 g | [Cu](Cl)Cl
product | 6-Chloro-3-methyl-5-nitro-1,2-benzisothiazole | ClC1=CC2=C(C(=NS2)C)C=C1[N+](=O)[O-] | C8H5ClN2O2S
